US08563541B2
A solution of n-butyllithium (77 mL, 2.5 M in hexane, 0.19 mol) was added to a solution of N,N-diisopropylamine (27 mL, 0.19 mol) in dry THF (400 mL) under an atmosphere of nitrogen at −78° C. After the addition, the mixture was warmed to 0° C. for 15 minutes and then cooled again to −78° C. 2-Fluoropyridine (15.0 mL, 0.174 mol) was added dropwise to the mixture and stirred at −78° C. After 45 minutes, a pale yellow precipitate formed. N,N-Dimethylformamide (27 mL, 0.35 mol) was added slowly via syringe maintaining temperature below −55° C. After ten minutes, the cooling bath was removed and the mixture slowly warmed to room temperature. The reaction was quenched with NH4Cl/H2O and then 4 M HCl to adjust the pH ˜7. NaHCO3/H2O was then added to adjust the pH 9-10, and then extracted three times with Et2O. The combined extracts were washed with brine, dried over MgSO4, filtered and concentrated to a yellow oil. The residue was purified by chromatography on silica gel, eluting with 25% EtOAc/hexane to provide 2-fluoronicotinaldehyde as a pale yellow oil (10.0 g, 45%). 1H NMR (CDCl3) δ 10.33 (s, 1H), 8.49 (m, 1H), 8.32 (m, 1H), 7.40 (m, 1H). LC/MS: 126 (M+H)+.

reactant | n-butyllithium | 0.19 mol, 2.5 M, 77 mL | C(CCC)[Li]
reactant | N,N-diisopropylamine | 0.19 mol, 27 mL | C(C)(C)NC(C)C | C6H15N
reactant | 2-Fluoropyridine | 0.174 mol, 15.0 mL | FC1=NC=CC=C1 | C5H4FN
reactant | N,N-Dimethylformamide | 0.35 mol, 27 mL | CN(C=O)C | C3H7NO
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 2-fluoronicotinaldehyde | 10.0 g, 45% | FC1=C(C=O)C=CC=N1 | C6H4FNO
